US06825220B2
A solution of 4-methoxy-3-methyl-1,3-dihydro-indol-2-one (41.73 g, 235.5 mmol) and tetrahydrofuran (1000 mL) is cooled to −78° C. Potassium bis(trimethylsilyl)amide (989.0 mL, 494.3 mmol, 0.5 M in toluene) is added over 45 minutes so as to maintain the reaction temperature between −71° C. and −66° C. Iodomethane (36.71 g, 258.7 mmol) is added over 15 minutes between −75° C. and −70° C. The mixture is stirred at −78° C. for 1 hour then −60° C. for 30 minutes. Methanol (25 mL) is added at −60° C. Aqueous hydrochloric acid (1N, 420 mL) is added rapidly allowing the temperature to rise to −7° C. The solution is transferred to a separatory funnel with aqueous hydrochloric acid (1N, 420 mL) and toluene (50 mL). The organic layer is extracted with a saturated sodium bicarbonate solution (250 mL), washed with a saturated sodium chloride solution (200 mL), dried over magnesium sulfate, and filtered. The filtrate is stirred with DARCO (25 g) for 1 hour then filtered. The filtrate is concentrated by rotary evaporation. The residue is refluxed for 1 hour in tert-butyl methyl ether (300 mL). After distilling out 100 mL of solvent, the slurry is stirred for 10 hours at 24° C. The solid is isolated by vacuum filtration rinsing twice with cold (−40° C.) tert-butyl methyl ether. After vacuum drying for 12 hours at 50° C./5 Torr, 23.9 g (58%) of 4-methoxy-3,3-dimethyl-1,3-dihydro-indol-2-one is obtained. mp 143-144° C. MS (ES+) m/z 192 (M++1).

reactant | 4-methoxy-3-methyl-1,3-dihydro-indol-2-one | 235.5 mmol, 41.73 g | COC1=C2C(C(NC2=CC=C1)=O)C | C10H11NO2
reactant | Potassium bis(trimethylsilyl)amide | 494.3 mmol, 0.5 M, 989.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | Iodomethane | 258.7 mmol, 36.71 g | IC | CH3I
reactant | hydrochloric acid | 1N, 420 mL | Cl | ClH
reactant | hydrochloric acid | 1N, 420 mL | Cl | ClH
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | Methanol | 25 mL | CO | CH4O
solvent | tetrahydrofuran | 1000 mL | O1CCCC1 | C4H8O
product | 4-methoxy-3,3-dimethyl-1,3-dihydro-indol-2-one | 23.9 g, 58% | COC1=C2C(C(NC2=CC=C1)=O)(C)C | C11H13NO2
